US03989724
Employing procedures similar to those described in Example 1, except that cyclohexane-1,3-dione is substituted for 2-methylcyclohexane-1,3-dione, 7-hydroxyoct-1-en-3-one is produced.

reactant | cyclohexane-1,3-dione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 2-methylcyclohexane-1,3-dione | CC1C(CCCC1=O)=O | C7H10O2
product | 7-hydroxyoct-1-en-3-one | OC(CCCC(C=C)=O)C | C8H14O2
